US07674805B2
12.1. 1,1-dimethylethyl 3-[(1-naphthalenyl-oxy)methyl]-1-pyrrolidinecarboxylate
A solution of 1.0 g (4.9 mmol) of 1,1-dimethylethyl 3-(hydroxymethyl)-1-pyrrolidinecarboxylate (described in WO 0066557), 0.95 g (6.4 mmol) of 1-naphthalenol and 1.4 g (6.9 mmol) of tri-n-butylphosphine in 40 ml of toluene and 20 ml of tetrahydrofuran, cooled under nitrogen by means of an ice bath, is admixed dropwise with a solution of 1.74 g (6.9 mmol) of ADDP. The reaction mixture is allowed to return to ambient temperature and stirring is continued for 24 hours. The mixture is filtered and the precipitate is rinsed with toluene. It is evaporated to dryness. The residue is taken up in dichloromethane and washed with a 1M aqueous sodium hydroxide solution. It is dried over sodium sulfate and evaporated to dryness. The residue is purified by chromatography on a silica gel column, eluting with dichloromethane and then with a 98/2 mixture of dichloromethane and methanol, to give 0.80 g of product in colorless oil form.

reactant | 1,1-dimethylethyl 3-(hydroxymethyl)-1-pyrrolidinecarboxylate | 4.9 mmol, 1.0 g | OCC1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 1-naphthalenol | 6.4 mmol, 0.95 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | tri-n-butylphosphine | 6.9 mmol, 1.4 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 6.9 mmol, 1.74 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 3-[(1-naphthalenyl-oxy)methyl]-1-pyrrolidinecarboxylate | 0.80 g | C1(=CC=CC2=CC=CC=C12)OCC1CN(CC1)C(=O)OC(C)(C)C | C20H25NO3
